US05814636
A mixture of 1-t-butoxycarbonyl-4-oxopiperidine (2.985 g) and 2-oxopiperazine (1.5 g) was dissolved in methanol (25 ml), and molecular sieves 3A (2.5 g) and 1N ethanol-hydrochloric acid (2.5 ml) were then added, followed by stirring for 45 minutes. Cyanoboronsodium hydride (945 ml) was divided into three portions and they were then separately added to the solution under ice-cooling, followed by stirring 5 hours at room temperature. After insolubles were removed with sellaite, the filtrate was then concentrated. To the resultant residue, a saturated sodium hydrogencarbonate solution was added, and extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated saline solution and then dried over magnesium sulfate. After the solvent was evaporated, the residue was purified by silica gel column chromatography (300 g, chloroform:methanol=30:1 to 10:1) to give 1.448 g of 4-(1-t-butoxycarbonylpiperidin-4-yl)-2-oxopiperazine.

reactant | 1-t-butoxycarbonyl-4-oxopiperidine | 2.985 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | 2-oxopiperazine | 1.5 g | O=C1NCCNC1 | C4H8N2O
reactant | ethanol hydrochloric acid | 1N, 2.5 ml | C(C)O.Cl
reactant | hydride | 945 ml | [H-]
solvent | methanol | 25 ml | CO | CH4O
product | 4-(1-t-butoxycarbonylpiperidin-4-yl)-2-oxopiperazine | 1.448 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1CC(NCC1)=O | C14H25N3O3
